Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"The past couple days I've been drinking and tonight I took a
bunch of pills."
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Ms. ___ is an ___ year old ___ freshman 
with no medical history and a psychiatric history significant 
for depression, anxiety, one prior suicide attempt in ___, and 
two prior psychiatric hospitalizations who was brought in by 
ambulance following an intentional ingestion tonight of 25 pills 
of 400mg gabapentin while intoxicated. She says that she thinks 
she
has been struggling with depression since eighth grade and 
suicidal ideation for years. She says that the transition to 
___ has been challenging due to trouble concentrating 
on her schoolwork and feeling that she doesn't have many close 
friends here. 

Ms. ___ confirms that she took gabapentin intentionally 
with the intent to die. She states that she took several 
gabapentin pills every few minutes. She notes that she had been 
researching online that the lethal amount was 8g and
says "I think I passed that". She does say earlier that she 
wasn't trying to take any specific number of pills. She is 
unsure why she ingested the pills tonight as opposed to another 
night. She had been drinking prior to the ingestion. Following 
the ingestion she called a friend and her parents because "I am 
really scared". She says that she was happy that she survived 
and
is interested in further help for dealing with her depression 
and suicidal thoughts. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Depression, anxiety, ?ADHD
-Hospitalizations: 
___: ___ in ___ for an "outburst" and
"throwing stuff"
___: ___ in ___ in ___ following a suicide
attempt by intentional ingestion
-SA/SI: One prior suicide attempt in ___ by intentional
ingestion of fluoxetine and aspirin, unknown history of
self-injurious behavior
-Harm to others: Unknown
-Medication/ECT trials: Fluoxetine currently, in the past had
been on gabapentin. Medication list includes
dextroamphetamine-amphetamine but unclear if has actually been 
on
this/prescribed it.
-Treaters: Sees ___ NP at ___, no therapist currently. 
-Trauma: Unknown

PAST MEDICAL HISTORY: 
Denies

CURRENT MEDICATIONS: 
Per patient:
Fluoxetine 20mg daily 

Unable to provide name of pharmacy overnight to confirm
medications. Notably, states had been on gabapentin in the past
but no longer prescribed, but states that she had extra in 
supply
tonight.

ALLERGIES: 
NKDA                                              

SUBSTANCE ABUSE HISTORY: 
-EtOH: Unclear EtOH history, had been drinking prior to 
ingestion
(level 74 in ED), and notes heavy drinking past few days.
-Illicit/Recreational: Denies
-Tobacco: Denies

 
Social History:
___
Family History:
FAMILY HISTORY: 
Unknown
 
Physical Exam:
Physical Examination:
VS:  T: 98.8 HR: 80  BP: 119/78  resp:  16  SpO2: 99% on RA

General: Awake, alert, wearing hospital gown, sitting up on exam
table
Skin: Several scars on inner aspect of L wrist, approx. ___
inches each
HEENT: Normocephalic, atraumatic, anicteric sclerae, EOMI,
mucosae pink and moist. Pupils appear somewhat dilated b/l but
are equal, reactive to light and accommodation
Neck: Supple, no LAD
Lungs: CTAB
CV: Normal S1 and S2, no m/r/g. RRR
Abdomen: Soft, nontender, nondistended. Normoactive bowel 
sounds.
No rigidity or guarding. 
Extremities: Warm, well perfused, no clubbing, no cyanosis, no
edema

Neuro:
Cranial Nerves II - XII intact
Motor: ___ strength in b/l upper and lower extremities. 
Abnormal movements: None noted, no asterixis
Sensation: Grossly intact to light touch
Coordination: Finger-to-nose intact, cerebellar function intact,
no dysmetria or dysdiadochokinesia
Gait: Normal gait and station, Romberg not assessed

Neuropsychiatric Examination:
  *Appearance: Well-groomed young woman who appears stated age,
wearing hospital gown, sitting up in chair, appears to be in no
acute distress
  Behavior:  Tearful and intermittently crying. Appears somewhat
anxious. Cooperative with interview, answers questions
appropriately. Good eye contact. No PMA/PMR observed.
  *Mood and Affect:  "Really tired" and "depressed" / Affect is
dysphoric, constricted in range, mood congruent
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
Linear, goal-directed. No loosening of associations.
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): Denies SI, including passive SI, denies HI,
denies AVH
  *Judgment and Insight: Poor / Poor
  Cognition:
    *Attention, *orientation, and executive function:  Alert and
oriented to person, place, date, situation. Performed MOYB
correctly without difficulty
    *Memory: ___ registration, ___ recall after 5 minutes
    *Fund of knowledge:  Knows current President of US, VP, as
well as past 2 presidents
    Calculations:  $1.75 = 7 quarters
    Abstraction: apple/orange = "fruit"
    Visuospatial: Not assessed
    *Speech:  Quiet volume, normal rate, normal rhythm, normal
prosody
    *Language: Native ___ speaker, fluent with no 
paraphrasic
errors. 

 
Pertinent Results:
___ 07:37AM URINE  UCG-NEGATIVE
___ 07:37AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG
___ 12:18AM   GLUCOSE-89 UREA N-14 CREAT-0.7 SODIUM-142 
POTASSIUM-3.3 CHLORIDE-104 TOTAL CO2-24 ANION GAP-17
___ 12:18AM   ASA-NEG ETHANOL-74* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:18AM   WBC-8.6 RBC-4.23 HGB-13.1 HCT-38.7 MCV-92 
MCH-31.0 MCHC-33.9 RDW-12.9 RDWSD-41.9
___ 12:18AM   NEUTS-62.7 ___ MONOS-6.0 EOS-1.6 
BASOS-0.6 IM ___ AbsNeut-5.41 AbsLymp-2.45 AbsMono-0.52 
AbsEos-0.14 AbsBaso-0.05
___ 12:18AM   PLT COUNT-222
 
Brief Hospital Course:
The patient was open and forthcoming from the start. She said 
her crisis was related to starting college and not having close 
friends here. She suffers from social
anxiety and initially was quite homesick. Patient also fell 
behind in her schoolwork and the stress of catching up and 
relapsing on alcohol were contributing factors to her admission. 
She began to self-medicate with alcohol whenever it was 
available in parties or gatherings, and once when she was able 
to procure her own bottle she felt compelled to drink throughout 
the day. Note: she recognizes that bingings and cravings are bad 
signs, but she turned down any treatment of A.A. because she 
believes she can still drink socially.

As she detoxed, she was in frequent supportive contact with her 
family. This and the peer support she received here helped her 
mood to stabilize quickly. She was very pleased with the 
outpouring of support she got from her new NEU friends and says 
that will help her to feel accepted by them. She began to sleep 
well with the help of Vistaril 50 mg. Her Prozac was increased 
to 40 mg qAM which is the national mean dose. With her 
suicidality and lability behind her, she is now safe for 
discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 20 mg PO DAILY 

 
Discharge Medications:
1. Fluoxetine 40 mg PO every morning
RX *fluoxetine 20 mg 2 capsule(s) by mouth qAM Disp #*30 Capsule 
Refills:*1
2. HydrOXYzine 50 mg PO at bedtime PRN insomnia 
RX *hydroxyzine HCl 25 mg 2 pills by mouth at bedtime Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mood Disorder NOS
Acute Mood Reaction

 
Discharge Condition:
Appearance: neat and clean.
Behavior: cooperative, friendly 
Mood and Affect: bright, euthymic
Thought process: linear, goal-oriented
Judgment and Insight: good

 
Discharge Instructions:
Please take all medication by schedule.
Please keep all of your appointments.
In any suicidal crisis, or change in mood or thinking, call ___ 
or go to your nearest emergency room, and please contact your 
treaters.
 
Followup Instructions:
___